US08022062B2
6-(4-Azepan-1-yl-3-fluorobenzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 419 to react 6-(4-bromo-3-fluorobenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine with homopiperidine. Use a method similar to the General Procedure 14 to give the title compound as a white solid. MS (ES+) m/z: 419 (M+H)+.

reactant | 6-(4-bromo-3-fluorobenzylthio)-3-tert-butoxycarbonyl-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine | BrC1=C(C=C(CSC2=C(C=CC=3CCN(CCC32)C(=O)OC(C)(C)C)Cl)C=C1)F | C22H24BrClFNO2S
reactant | homopiperidine | N1CCCCCC1 | C6H13N
product | 6-(4-Azepan-1-yl-3-fluorobenzylthio)-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.N1(CCCCCC1)C1=C(C=C(CSC2=C(C=CC=3CCNCCC32)Cl)C=C1)F | InChI=1S/C23H28ClFN2S.ClH/c24-20-7-6-18-9-11-26-12-10-19(18)23(20)28-16-17-5-8-22(21(25)15-17)27-13-3-1-2-4-14-27;/h5-8,15,26H,1-4,9-14,16H2;1H
